US08461348B2
ethyl 1-[4-(3,4-dichlorophenyl)-1,3-thiazol-2-yl]-5-(trifluoromethyl)-1H-pyrazole-4-carboxylate
A mixture of ethyl 4,4,4-trifluoroacetoacetate (3.59 g, 19.5 mmol), ethyl orthoformate (4.49 mL, 27 mmol) and acetic anhydride (5.10 mL, 54 mmol) was heated under reflux for 3.5 hr, and the mixture was concentrated under reduced pressure. Ethanol (50 mL) and thiosemicarbazide (1.37 g, 15 mmol) were added, and the reaction mixture was stirred at room temperature for 2.5 hr. 2-Bromo-1-(3,4-dichlorophenyl)ethanone (4.02 g, 15 mmol) was added, and the mixture was stirred at 80° C. for 30 min, cooled to room temperature. The precipitated crystals were collected by filtration to give a crude title compound (4.73 g, 72%) as colorless crystals.

reactant | ethyl 4,4,4-trifluoroacetoacetate | 19.5 mmol, 3.59 g | FC(C(CC(=O)OCC)=O)(F)F | C6H7F3O3
reactant | ethyl orthoformate | 27 mmol, 4.49 mL | C(OCC)([O-])[O-]
reactant | acetic anhydride | 54 mmol, 5.10 mL | C(C)(=O)OC(C)=O | C4H6O3
reactant | thiosemicarbazide | 15 mmol, 1.37 g | NNC(=S)N | CH5N3S
reactant | 2-Bromo-1-(3,4-dichlorophenyl)ethanone | 15 mmol, 4.02 g | BrCC(=O)C1=CC(=C(C=C1)Cl)Cl | C8H5BrCl2O
solvent | Ethanol | 50 mL | C(C)O | C2H6O
product | ethyl 1-[4-(3,4-dichlorophenyl)-1,3-thiazol-2-yl]-5-(trifluoromethyl)-1H-pyrazole-4-carboxylate | 4.73 g, 72% | ClC=1C=C(C=CC1Cl)C=1N=C(SC1)N1N=CC(=C1C(F)(F)F)C(=O)OCC | C16H10Cl2F3N3O2S
